US07022730B2
The compound Bis(6-chloroindol-3-yl)-(4-fluoro-2-chlorophenyl)methane was prepared following procedure A, starting from 6-chloro indole and 2-chloro 4-fluoro benzaldehyde. LC: Tr 2.79 min, MS: 443 (M+H)+

reactant | 6-chloro indole | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | 2-chloro 4-fluoro benzaldehyde | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
product | Bis(6-chloroindol-3-yl)-(4-fluoro-2-chlorophenyl)methane | ClC1=CC=C2C(=CNC2=C1)C(C1=C(C=C(C=C1)F)Cl)C1=CNC2=CC(=CC=C12)Cl | C23H14Cl3FN2
